US05804532
Hydroxylamine hydrochloride (0.76 g) was added to a mixture of 1-[4-chloro-2-(N-ethyl-N-methylsulphonylamino)phenyl]-3-cyclopropyl-2-dimethylaminomethylenepropan-1,3-dione(3.83 g) in ethanol. The mixture was stirred for 1 hour and evaporated to dryness. The residue was dissolved in dichloromethane and washed with water, dried (MgSO4) and filtered. The filtrate was evaporated to dryness and the residue was purified by chromatography eluted with a mixture of cyclohexane, dichloromethane and ethyl acetate. The product was triturated with a mixture of ether and hexane and filtered to give 4-[4-chloro-2-(N-ethyl-N-methylsulphonylamino)benzoyl]-5-cyclopropylisoxazole (0.81 g) as a white solid, m.p. 114°-115.8° C.

reactant | Hydroxylamine hydrochloride | 0.76 g | Cl.NO
reactant | 1-[4-chloro-2-(N-ethyl-N-methylsulphonylamino)phenyl]-3-cyclopropyl-2-dimethylaminomethylenepropan-1,3-dione | 3.83 g | ClC1=CC(=C(C=C1)C(C(C(=O)C1CC1)=CN(C)C)=O)N(S(=O)(=O)C)CC | C18H23ClN2O4S
solvent | ethanol | C(C)O | C2H6O
product | 4-[4-chloro-2-(N-ethyl-N-methylsulphonylamino)benzoyl]-5-cyclopropylisoxazole | 0.81 g | ClC1=CC(=C(C(=O)C=2C=NOC2C2CC2)C=C1)N(S(=O)(=O)C)CC | C16H17ClN2O4S
